US08236792B2
(2S,3R)-2-(4-Cyclobutyl-[1,4]diazepane-1-carbonyl)-3-(3-fluoro-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester.
A vial containing a mixture of (2S,3S)-2-(4-cyclobutyl-[1,4]diazepane-1-carbonyl)-3-methanesulfonyloxy-pyrrolidine-1-carboxylic acid tert-butyl ester (106.0 mg, 0.24 mmol), 3-fluorophenol (29.3 mg, 0.26 mmol), and K2CO3 (39.5 mg) in DMF (2.5 mL) was capped and heated for 60 h at 90° C. The mixture was cooled to rt and filtered. The filtrate was concentrated and the residue was purified by FCC to afford the title compound (17 mg, 15%). MS (ESI): mass calcd. for C25H36FN3O4, 461.57; m/z found, 462.3 [M+H]+. 1H NMR (CDCl3): 7.25-7.19 (m, 1H), 6.74-6.64 (m, 2H), 6.64-6.57 (m, 1H), 5.09-4.70 (m, 2H), 3.81-3.49 (m, 6H), 2.90-2.76 (m, 1H), 2.59-2.29 (m, 5H), 2.15-1.72 (m, 7H), 1.64-1.53 (m, 2H), 1.49-1.41 (m, 9H).

reactant | (2S,3S)-2-(4-cyclobutyl-[1,4]diazepane-1-carbonyl)-3-methanesulfonyloxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.24 mmol, 106.0 mg | C(C)(C)(C)OC(=O)N1[C@@H]([C@H](CC1)OS(=O)(=O)C)C(=O)N1CCN(CCC1)C1CCC1 | C20H35N3O6S
reactant | 3-fluorophenol | 0.26 mmol, 29.3 mg | FC=1C=C(C=CC1)O | C6H5FO
reactant | K2CO3 | 39.5 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | (2S,3R)-2-(4-Cyclobutyl-[1,4]diazepane-1-carbonyl)-3-(3-fluoro-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 17 mg, 15% | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H](CC1)OC1=CC(=CC=C1)F)C(=O)N1CCN(CCC1)C1CCC1 | C25H36FN3O4
